US06660744B1
To a solution of tert-butyl 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-hydroxy-1-piperidinecarboxylate (0.090 g, 0.00016 mol) in dichloromethane (2 mL) was slowly added a 20% solution of trifluoroacetic acid in dichloromethane (10 mL) at 0° C. under an atmosphere of nitrogen. The mixture was warmed to room temperature and stirred for four hours. The solvent was removed under reduced pressure. An aqueous solution of 5 N sodium hydroxide was added to pH 11 at 0° C. The water phase was extracted with dichloromethane (2×30 mL). The combined organic extracts were washed with water (1×60 mL) and brine (1×60 mL) and dried over sodium sulfate. The solvent was removed under reduced pressure to yield 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-piperidinol (0.045 g, 0.000096 mol).

reactant | tert-butyl 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-hydroxy-1-piperidinecarboxylate | 0.00016 mol, 0.090 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C31H37N7O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-piperidinol | 0.000096 mol, 0.045 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)CC2(CCNCC2)O | C26H29N7O2
